### PR TITLE
[Merged by Bors] - chore: remove some uses of `open Classical`, part 2

### PR DESCRIPTION
**Pull request by sgouezel**
See #15371.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean [hunk 1]
```diff
@@ -454,10 +453,9 @@ end CommGroupWithZero
 
 section NoncomputableDefs
 
-open scoped Classical
-
 variable {M : Type*} [Nontrivial M]
 
+open Classical in
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/Units/Basic.lean:458]:
```suggestion
open scoped Classical in
```

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean [hunk 2]
```diff
@@ -232,13 +233,15 @@ theorem supDegree_sub_le {f g : R'[A]} :
...
-  (Finset.sup_mono Finsupp.support_finset_sum).trans_eq (Finset.sup_biUnion _ _)
+    (∑ i ∈ s, f i).supDegree D ≤ s.sup (fun i => (f i).supDegree D) := by
+  classical
+  exact (Finset.sup_mono Finsupp.support_finset_sum).trans_eq (Finset.sup_biUnion _ _)
 
 theorem supDegree_single_ne_zero (a : A) {r : R} (hr : r ≠ 0) :
     (single a r).supDegree D = D a := by
   rw [supDegree, Finsupp.support_single_ne_zero a hr, Finset.sup_singleton]
 
+open Classical in
```
Comment (grunweg) [inline Mathlib/Algebra/MonoidAlgebra/Degree.lean:244]: Is this needed, or can you add suitable `DecidableEq` hypotheses?

File: Mathlib/Algebra/Order/CauSeq/Completion.lean [hunk 3]
```diff
@@ -185,6 +183,7 @@ instance instRatCast : RatCast (Cauchy abv) where ratCast q := ofRat q
 @[simp, norm_cast] lemma ofRat_nnratCast (q : ℚ≥0) : ofRat (q : β) = (q : Cauchy abv) := rfl
 @[simp, norm_cast] lemma ofRat_ratCast (q : ℚ) : ofRat (q : β) = (q : Cauchy abv) := rfl
 
+open Classical in
```
Comment (grunweg) [inline Mathlib/Algebra/Order/CauSeq/Completion.lean:186]: Same question here.

File: Mathlib/AlgebraicTopology/TopologicalSimplex.lean [hunk 4]
```diff
@@ -49,6 +50,7 @@ def toTopMap {x y : SimplexCategory} (f : x ⟶ y) (g : x.toTopObj) : y.toTopObj
       simp [Finset.eq_univ_iff_forall]
     · apply Set.pairwiseDisjoint_filter⟩
 
+open Classical in
```
Comment (grunweg) [inline Mathlib/AlgebraicTopology/TopologicalSimplex.lean:53]: Same question here.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 5]
```diff
@@ -80,10 +80,7 @@ noncomputable section
 
 variable {𝕜 E F G : Type*}
 
-open scoped Classical
-open Topology NNReal Filter ENNReal
-
-open Set Filter Asymptotics
+open Topology NNReal Filter ENNReal Set Asymptotics
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Basic.lean:83]: Nice clean-up!

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean [hunk 6]
```diff
@@ -72,8 +72,7 @@ theorem not_isUnit_zero [Nontrivial M₀] : ¬IsUnit (0 : M₀) :=
 
 namespace Ring
 
-open scoped Classical
-
+open Classical in
```
Comment (grunweg) [inline Mathlib/Algebra/GroupWithZero/Units/Basic.lean:75]: Does `open scoped Classical` also work? Would you like to use that instead? (Also applies in ~30 other places.)

File: Mathlib/MeasureTheory/MeasurableSpace/Defs.lean [hunk 7]
```diff
@@ -195,6 +193,7 @@ protected theorem MeasurableSet.ite {t s₁ s₂ : Set α} (ht : MeasurableSet t
     (h₁ : MeasurableSet s₁) (h₂ : MeasurableSet s₂) : MeasurableSet (t.ite s₁ s₂) :=
   (h₁.inter ht).union (h₂.diff ht)
 
+open Classical in
```
Comment (grunweg) [inline Mathlib/MeasureTheory/MeasurableSpace/Defs.lean:196]: Same comment as above.

File: Mathlib/MeasureTheory/Measure/GiryMonad.lean [hunk 8]
```diff
@@ -30,11 +30,7 @@ giry monad
 
 noncomputable section
 
-open scoped Classical
-open ENNReal
-
-open scoped Classical
-open Set Filter
+open ENNReal Set Filter
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Measure/GiryMonad.lean:33]: Nice find!

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! I have a few comments, which should be quick to address. 
maintainer delegate, i.e. feel free to maintainer merge on my behalf once you have addressed them.

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:244]: I suspect the answer is "let's scoped all the `Classical`s first, and remove them later"

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Algebra/GroupWithZero/Units/Basic.lean:458]: I have used `open Classical in` instead of `open scoped Classical in` as it doesn't make a real difference (if it created a name conflict, one would spot it right away) and is a little bit shorter. If you want, I can change  all over the PR, just tell me.

File: Mathlib/Algebra/MonoidAlgebra/Degree.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Algebra/MonoidAlgebra/Degree.lean:244]: For each statement, I have tried to balance between ease of use and adding decidability assumptions. If we notice that some of my choices create friction elsewhere, we can go back and fix them later.

File: Mathlib/Algebra/Order/CauSeq/Completion.lean (hunk 3 above)
Comment (sgouezel) [reply Mathlib/Algebra/Order/CauSeq/Completion.lean:186]: Here it's an instance, so I definitely don't want decidability assumptions, to make sure it's available all the time. In general, in definitions and instances, `open Classical in` is always the way to go, while in theorems one has to double-think.

File: Mathlib/AlgebraicTopology/TopologicalSimplex.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/AlgebraicTopology/TopologicalSimplex.lean:53]: It's for rewriting from left to right, as above. In general, if decidability only appears on the right of an equality, I went for `open Classical in` for this reason.

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean (hunk 6 above)
Comment (sgouezel) [reply Mathlib/Algebra/GroupWithZero/Units/Basic.lean:75]: Yes, it works, but doesn't make a difference and is a little bit longer.

Comment (grunweg) [reply Mathlib/Algebra/GroupWithZero/Units/Basic.lean:75]: Fair enough; I won't insist on that one.

File: Mathlib/Algebra/Order/CauSeq/Completion.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Algebra/Order/CauSeq/Completion.lean:186]: We also have instancen which explicitly take a `DecidableXX` assumption...

**Review by grunweg — COMMENTED** [review]
You have well-thought answers to all comments: let's have a second pair of eyes on this.
maintainer merge

File: Mathlib/Algebra/Category/Grp/FilteredColimits.lean [hunk 9]
```diff
@@ -26,11 +26,7 @@ universe v u
 
 noncomputable section
 
-open scoped Classical
-
-open CategoryTheory
-
-open CategoryTheory.Limits
+open CategoryTheory CategoryTheory.Limits
```
Comment (PatrickMassot) [inline Mathlib/Algebra/Category/Grp/FilteredColimits.lean:29]: Is there any reason to avoid the modern style ``` open CategoryTheory Limits` ?

**Comment by PatrickMassot** [comment]
bors merge
